US07683067B2
N-Benzyl-2-hydroxy-3-{5-[(4-methylpiperazin-1-yl)sulfonyl]pyridin-2-yl}-1H-indole-5-carboxamide hydrochloride
Sodium hydride (0.033 g of 60% dispersion in paraffin, 0.84 mmol) was washed with hexane, dried in vacuo and suspended in N,N-dimethylformamide (1 mL). N-Benzyl-2-oxoindoline-5-carboxamide (0.110 g, 0.41 mmol) and 1-[(6-chloropyridin-3-yl)sulfonyl]-4-methylpiperazine (0.170 g, 0.62 mmol; described in: Thunus L. Annuale Pharmacetiques Francisies, 1977, 35, 197-203) were dissolved in N,N-dimethylformamide (5 mL) and added to the suspension of sodium hydride. The reaction mixture was stirred at room temperature for 10 min and subsequently heated for 1 h at 90° C. After cooling to room temperature, a saturated aqueous sodium hydrogen carbonate solution was added (4 mL). Silica gel (8 mL) was added and the solvent was removed in vacuo. The residue was purified on a silica gel column using a gradient of chloroform/methanol mixtures, (40:1 to 1:1 and 2% triethylamine), as the eluent. The base was dissolved in a mixture of chloroform (5 mL) and methanol (5 mL). Hydrogen chloride (3 mL, 1 M in diethyl ether) was added and stirring was continued for 10 min. The precipitate was washed with diethyl ether and dried in vacuo at 60° C. to give 0.035 g (16% yield) of the title compound: 1H NMR (D2O, 400 MHz) δ 7.79 (m, 1H), 7.42 (m, 4H), 7.37 (m, 1H), 7.24 (m, 1H), 7.14 (m, 2H), 6.80 (m, 1H), 6.68 (m, 1H), 4.50 (s, 2H), 3.77 (m, 2H), 3.60 (m, 2H), 3.22 (m, 2H), 2.91 (m, 5H); MS (ES) m/z 506 (M++1).

reactant | Sodium hydride | 0.84 mmol, 0.033 g | [H-].[Na+]
reactant | N-Benzyl-2-oxoindoline-5-carboxamide | 0.41 mmol, 0.110 g | C(C1=CC=CC=C1)NC(=O)C=1C=C2CC(NC2=CC1)=O | C16H14N2O2
reactant | 1-[(6-chloropyridin-3-yl)sulfonyl]-4-methylpiperazine | 0.62 mmol, 0.170 g | ClC1=CC=C(C=N1)S(=O)(=O)N1CCN(CC1)C | C10H14ClN3O2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-Benzyl-2-hydroxy-3-{5-[(4-methylpiperazin-1-yl)sulfonyl]pyridin-2-yl}-1H-indole-5-carboxamide hydrochloride | 0.035 g, 16% yield | Cl.C(C1=CC=CC=C1)NC(=O)C=1C=C2C(=C(NC2=CC1)O)C1=NC=C(C=C1)S(=O)(=O)N1CCN(CC1)C | InChI=1S/C26H27N5O4S.ClH/c1-30-11-13-31(14-12-30)36(34,35)20-8-10-23(27-17-20)24-21-15-19(7-9-22(21)29-26(24)33)25(32)28-16-18-5-3-2-4-6-18;/h2-10,15,17,29,33H,11-14,16H2,1H3,(H,28,32);1H
